US05543519
1.56 g of 5-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid-ethyl ester is refluxed in 20 ml of hydrazine hydrate (80%) for 4 hours. After cooling, the precipitated crystals are suctioned off and dried. 1.2 g of 5-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid-hydrazide of a melting point of 212°-213° C. is obtained.

reactant | 5-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid-ethyl ester | 1.56 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OCC1=CC=CC=C1 | C23H22N2O4
reactant | hydrazine hydrate | 20 ml | O.NN
product | 5-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid-hydrazide | 1.2 g | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3NC2=CC=C1)C(=O)NN)COC | C21H20N4O3
